US04956359
N-(2,6-Dichlorophenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbothioamide
A solution of 0.04 mole of 3-[3-(trifluoromethyl)phenoxy]azetidine in 100 ml of absolute ethanol was stirred in a tap water bath while 8.16 g (0.04 mole) of 2,6-dichlorophenyl isothiocyanate was added all at once. The reaction was slightly exothermic and as the isothiocyanate began to dissolve, product began to precipitate. After stirring for 45 minutes the reaction mixture was heated on a steam bath to assure that all the isothiocyanate dissolved, and upon cooling, filtration yielded 15.2 g of white crystalline product. A portion of this material (7.9 g) was recrystallized from absolute ethanol to give 4.3 g of pure crystalline powder, m.p. 196°-197° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine | 0.04 mole | FC(C=1C=C(OC2CNC2)C=CC1)(F)F | C10H10F3NO
reactant | 2,6-dichlorophenyl isothiocyanate | 0.04 mole, 8.16 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
reactant | isothiocyanate | [N-]=C=S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2,6-Dichlorophenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbothioamide | 15.2 g | ClC1=C(C(=CC=C1)Cl)NC(=S)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C17H13Cl2F3N2OS
